US04399163
i. Ethyl 2,2,3,3-Tetramethylcyclopropanecarboxylate
The method of Mesheheryakov, Chem. Abstr., 54, 24436d (1960) was employed. To a mixture of 19 g. (0.226 mole) of 2,3-dimethyl-2-butene and 2 g. of cupric sulfate is added at reflux a mixture of 51 g. (0.447 mole) ethyl diazoacetate and 19 g. of 2,3-dimethyl-2-butene. The resulting mixture is heated at reflux for 3 hours, cooled, filtered and distilled to afford 19.8 g. (26%) of the desired cyclic ester, B.P. 76°-77° (15 mm.).

reactant | 2,3-dimethyl-2-butene | 0.226 mole | CC(C)=C(C)C | C6H12
reactant | ethyl diazoacetate | 0.447 mole | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
product | Ethyl 2,2,3,3-Tetramethylcyclopropanecarboxylate | CC1(C(C1(C)C)C(=O)OCC)C | C10H18O2
